US09085534B2
3[(4-methoxybenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 26% yield from 4-methoxybenzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 8.17 (s, 1H), 7.81 (d, 1H, J=5.0 Hz), 7.56 (d, 1H, J=5.0 Hz), 7.29 (d, 2H, J=8.5 Hz), 6.91 (d, 2H, J=8.5 Hz), 4.47 (s, 2H), 3.73 (s, 3H). [M+H] calc'd for C14H14N2O3, 259; found 259.

reactant | 4-methoxybenzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3[(4-methoxybenzyl)amino]pyridine-4-carboxylic acid | 26% yield | COC1=CC=C(CNC=2C=NC=CC2C(=O)O)C=C1 | C14H14N2O3
